US05621087
Preparation of 3-tert-butyldimethylsilylmorphine (TBDMS-morphine)
To a stirred suspension of anhydrous morphine (7.01 mmol) at -78° C. in anhydrous THF (15 ml) was added 1.6M butyllithium (4.8 ml, 0.492 g, 7.68 mmol) over 8 minutes. 42 minutes later, a solution of TBDMS chloride (1.27 g, 8.43 mmol) in anhydrous THF (10 ml) was added over 10 minutes. The mixture was left to warm up gradually to room temperature overnight by which time all the material had gone into solution. Water was then added to the mixture which was extracted with dichloromethane several times. The organic extracts were combined, washed with brine, dried over Na2SO4, filtered and the solvent removed in vacuo to leave an off-white film. Chromatography over silica using CH2Cl2 /MeOH (5:1) as eluent afforded the product as a white solid (1.58 g, 56%). Recrystallization from Et2O/petrol (boiling point 40°-60°) gave white crystalline needles (1.37 g), m.p.=120°-122° C.

reactant | morphine | 7.01 mmol | C1=CC(O)=C2C=3[C@@]45[C@@H](O2)[C@@H](O)C=C[C@H]4[C@@H](CC13)N(C)CC5 | C17H19NO3
reactant | butyllithium | 7.68 mmol, 1.6M, 4.8 ml, 0.492 g | C(CCC)[Li]
reactant | TBDMS chloride | 8.43 mmol, 1.27 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | Water | O | H2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 3-tert-butyldimethylsilylmorphine | 1.58 g, 56% | [Si](C)(C)(C(C)(C)C)C1(CC=C2C[C@@H]3[C@@H]4C=C[C@@H]([C@H]5[C@@]4(C2=C1O5)CCN3C)O)O | C23H35NO3Si
